US05468472
Example 1: Preparation of 4-(isopropylthio)resorcin
8.4 g of tioxolone (1 eq) are added to an aqueous sodium hydroxide solution (3.5 eq) (6.7 g of sodium hydroxide in 84 ml of water) at room temperature. After complete dissolution (30 minutes), 5.5 ml of isopropyl iodide are added. After stirring for two hours at room temperature, the mixture is acidified with hydrochloric acid and then extracted with ethyl ether. The organic phases are washed, dried and evaporated. The residue is recrystallized from an alcohol/water mixture to obtain pale-yellow crystals having a melting point of: 67° C.

reactant | tioxolone | 8.4 g, 1 eq | C1=CC2=C(C=C1O)OC(=O)S2 | C7H4O3S
reactant | sodium hydroxide | 84 ml, 6.7 g, 3.5 eq | [OH-].[Na+]
reactant | isopropyl iodide | 5.5 ml | C(C)(C)I | C3H7I
reactant | hydrochloric acid | Cl | ClH
product | 4-(isopropylthio)resorcin | C(C)(C)SC1=C(C=C(O)C=C1)O | C9H12O2S
